US08871187B2
5-4-2 2-Hydroxymethyl-2-phenylheptanenitrile
5.14 g (27.4 mmol) of 2-phenylheptanenitrile are added to a suspension of 1.34 g of 60% NaH in 50 ml of DMF cooled to 0° C. After stirring for 30 minutes, 7.6 g (220 mmol) of paraformaldehyde are added portionwise. The reaction medium is left to stir at ambient temperature for 6 hours and then hydrolysed with ice and extracted with diethyl ether. The organic phase is washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over sodium sulphate, filtered and evaporated under pressure. The crude product obtained is purified by silica gel chromatography (eluent 8/2 heptane/ethyl acetate). 4.24 g in the form of a pale yellow oil are obtained with a yield of 71%.

reactant | 2-phenylheptanenitrile | 27.4 mmol, 5.14 g | C1(=CC=CC=C1)C(C#N)CCCCC | C13H17N
reactant | NaH | 1.34 g | [H-].[Na+]
reactant | paraformaldehyde | 220 mmol, 7.6 g | C=O | CH2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-Hydroxymethyl-2-phenylheptanenitrile | yield of 71% | OCC(C#N)(CCCCC)C1=CC=CC=C1 | C14H19NO
